US07943622B2
Step 2. Synthesis of 4-Fluorophenyl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of 4-tert-butyl 1-(4-fluorophenyl) 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate TFA salt (88.9 mg, 0.163 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure, yielding 63.7 mg (97%) of the desired product as a yellow solid. LC-MS: RT=4.07 min, [M+H]+=332.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | 4-tert-butyl 1-(4-fluorophenyl) 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate TFA salt | 0.163 mmol, 88.9 mg | OC(=O)C(F)(F)F.N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC1=CC=C(C=C1)F
solvent | MeOH | 1 mL | CO | CH4O
product | 4-Fluorophenyl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate dihydrochloride | 63.7 mg, 97% | Cl.Cl.N1=CC(=CC=C1)OCC1N(CCNC1)C(=O)OC1=CC=C(C=C1)F | InChI=1S/C17H18FN3O3.2ClH/c18-13-3-5-15(6-4-13)24-17(22)21-9-8-20-10-14(21)12-23-16-2-1-7-19-11-16;;/h1-7,11,14,20H,8-10,12H2;2*1H
